US07420055B2
Synthesis of 4-tert-butyl-N-[4-chloro-2-(thiazole-2-carbonyl)-phenyl]benzenesulfonamide
The title compound was prepared by the reaction of 4-t-butylbenzenesulfonyl chloride with (2-Amino-5-chloro-phenyl)-thiazol-2-yl-methanone following the general procedure. MS: m/z 435.0 (M++1).

reactant | 4-t-butylbenzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | (2-Amino-5-chloro-phenyl)-thiazol-2-yl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C=1SC=CN1 | C10H7ClN2OS
product | 4-tert-butyl-N-[4-chloro-2-(thiazole-2-carbonyl)-phenyl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C=1SC=CN1 | C20H19ClN2O3S2
